US08871798B2
7-Hydroxy-2-methyl-4-[(E)-2-(6-methylpyridin-2-yl)vinyl]hexahydropyrrolo[3,4-a]pyrrolizine-1,3-dione (2 racemic mixtures)
The title compound is prepared analogously from 100 mg of (E)-3-(6-methylpyridin-2-yl)propenal, 75 mg of N-methylmaleimide and 100 mg of cis-4-hydroxy-L-proline.

reactant | (E)-3-(6-methylpyridin-2-yl)propenal | 100 mg | CC1=CC=CC(=N1)/C=C/C=O | C9H9NO
reactant | N-methylmaleimide | 75 mg | CN1C(C=CC1=O)=O | C5H5NO2
reactant | cis-4-hydroxy-L-proline | 100 mg | O[C@H]1C[C@H](NC1)C(=O)O | C5H9NO3
product | 7-Hydroxy-2-methyl-4-[(E)-2-(6-methylpyridin-2-yl)vinyl]hexahydropyrrolo[3,4-a]pyrrolizine-1,3-dione | OC1CN2C(C3C(C2C1)C(N(C3=O)C)=O)\C=C\C3=NC(=CC=C3)C | C18H21N3O3
